US03989766
3,6-endomethylenetetrahydrophthalic anhydride (referred to as MNA);
tetrahydrophthalic anhydride (referred to as THPA); and methylhexahydrophthalic anhydride (referred to as Me-HHPA).

reactant | tetrahydrophthalic anhydride | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
reactant | methylhexahydrophthalic anhydride | CC12C(=O)OC(C1CCCC2)=O | C9H12O3
product | 3,6-endomethylenetetrahydrophthalic anhydride | C1C2C=CC1C3C2C(=O)OC3=O | C9H8O3
